US06087357
A solution of methanesulfonyl chloride (1.1 g) in dichloromethane (4 ml) was added to a stirred solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-hydroxypropyl)-2-(1H-indol-3-ylmethyl)piperazine (4.99 g) and triethylamine (1.1 g) in dichloromethane (50 ml) at ice-bath temperature over a 20-minute period. After being stirred at the same temperature for 1 hour, the reaction mixture was diluted with dichloromethane (50 ml) and then washed with water and aqueous sodium bicarbonate solution. The dichloromethane layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using dichloromethane-methanol (30:1) as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine (4.31 g) as a powder.

reactant | methanesulfonyl chloride | 1.1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-hydroxypropyl)-2-(1H-indol-3-ylmethyl)piperazine | 4.99 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCO)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C25H25F6N3O2
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine | 4.31 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCOS(=O)(=O)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C26H27F6N3O4S
